US06632810B2
Synthesis of 2-(2-hydroxyethyl)-5,6,7-trimethoxynaphthalene:
5,6,7-Trimethoxy-2-vinylnaphthalene (1.215 g) was dissolved in dry THF (10 mL) under an argon atmosphere, a 1 M THF solution (4.7 mL) of borane was added dropwise to the solution at 0° C., and the mixture was stirred at room temperature for 2 hours. Water (4 mL) was added to the reaction mixture at 0° C., and a 4 M aqueous solution (1.2 mL) of sodium hydroxide was then added. 31% Aqueous hydrogen peroxide (0.5 mL) was added to the reaction mixture at 0° C., and the mixture was stirred at 50° C. for 50 minutes. The solvent was distilled off, and water was added to the residue to conduct extraction with ethyl acetate. The resultant organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:8) to obtain the title compound.

reactant | 5,6,7-Trimethoxy-2-vinylnaphthalene | 1.215 g | COC1=C2C=CC(=CC2=CC(=C1OC)OC)C=C | C15H16O3
reactant | borane | B | BH3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | 0.5 mL | OO | H2O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1 M, 4.7 mL | C1CCOC1 | C4H8O
solvent | Water | 4 mL | O | H2O
product | 2-(2-hydroxyethyl)-5,6,7-trimethoxynaphthalene | OCCC1=CC2=CC(=C(C(=C2C=C1)OC)OC)OC | C15H18O4
